US07087761B2
4-(2-Amino-4-methoxy-benzothiazol-7-yl)-1-methyl-piperazin-2-one
From [2-methoxy-5-(4-methyl-3-oxo-piperazin-1-yl)-phenyl]-thiourea with HBr—AcOH (4 equiv.) and DMSO (2.4 equiv.) in AcOH. ES-MS m/e (%): 293 (M+H+, 100).

reactant | [2-methoxy-5-(4-methyl-3-oxo-piperazin-1-yl)-phenyl]-thiourea | COC1=C(C=C(C=C1)N1CC(N(CC1)C)=O)NC(=S)N | C13H18N4O2S
reactant | HBr AcOH | 4 equiv. | Br.CC(=O)O
reactant | DMSO | 2.4 equiv. | CS(=O)C | C2H6OS
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-(2-Amino-4-methoxy-benzothiazol-7-yl)-1-methyl-piperazin-2-one | NC=1SC2=C(N1)C(=CC=C2N2CC(N(CC2)C)=O)OC | C13H16N4O2S
